US05140092
Bisbenzimidazolyl biphenyl polybenzothiazole
Into the bottom of a resin flask equipped with a mechanical stirrer, nitrogen inlet/outlet and pressure regulator, was placed 4.7468 g (10 mmol) of 4,4'-dicarboxy-2,2'-bisbenzimidazolyl biphenyl, 2.4520 g (10 mmol) of 2,5-diamino-1,4-benzenedithiol dihydrochloride and 35.10 g of PPA (77% P2O5). The resulting mixture was dehydrochlorinated under reduced pressure (176 mm) while heating slowly to 65° C. The reaction temperature was maintained at 65° C. for 16 hours, raised to 80° C. for 4 hours, then cooled to 60° C. 15.90 g P2O5 was added to the mixture to bring the polymer concentration to 10 percent. The mixture was heated under nitrogen atmosphere at 60° C. for 4 hours, 100° C. for 2 hours and 160° C. for 24 hours. As the temperature increased, stir opalescence began to occur at about 140 ° C. The mixture was finally heated to 190° C. for 4 hours. The polymer was precipitated in water, broken up with a blender, collected by suction filtration, washed with water and dried under reduced pressure (0.02 mm) at 100° C. Intrinsic viscosity, 14 dl/g.

reactant | 4,4'-dicarboxy-2,2'-bisbenzimidazolyl biphenyl | 10 mmol, 4.7468 g | C(=O)(O)C1=CC(=C(C=C1)C1=C(C=C(C=C1)C(=O)O)C=1NC2=C(N1)C=CC=C2)C=2NC1=C(N2)C=CC=C1 | C28H18N4O4
reactant | 2,5-diamino-1,4-benzenedithiol dihydrochloride | 10 mmol, 2.4520 g | Cl.Cl.NC1=C(C=C(C(=C1)S)N)S
reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | P2O5 | 15.90 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | Bisbenzimidazolyl biphenyl | N1=C(NC2=C1C=CC=C2)C2=CC=C(C=C2)C2=CC=C(C=C2)C=2NC1=C(N2)C=CC=C1 | C26H18N4
